US07064124B2
N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-benzyloxybenzoyl]morpholine
Oxalyl chloride (0.150 g, 1.18 mmol) was added to a methylene chloride solution (5 ml) of 5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-benzyloxybenzoic acid (0.050 g, 0.118 mmol) and the resulting solution was stirred at room temperature for 1 hour. The reaction solution was concentrated and after adding a THF solution of morpholine (0.036 g, 0.414 mmol) to the obtained residue, the solution was stirred at room temperature for 30 minutes. The reaction solution was poured into ice water and then extracted with methylene chloride. The extract was washed with water and then dried, and the solvent was removed by distillation. The obtained residue was purified by preparative thin-layer chromatography (hexand:ethyl acetate=1:1) to obtain the titled compound (0.058 g, 0.117 mmol, 99%).

reactant | Oxalyl chloride | 1.18 mmol, 0.150 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
reactant | 5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-benzyloxybenzoic acid | 0.118 mmol, 0.050 g | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)O)C1)OCC1=CC=CC=C1)C)=O | C24H22O7
reactant | morpholine | 0.414 mmol, 0.036 g | N1CCOCC1 | C4H9NO
solvent | THF | C1CCOC1 | C4H8O
product | N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-benzyloxybenzoyl]morpholine | 0.117 mmol, 0.058 g, 99% | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)N2CCOCC2)C1)OCC1=CC=CC=C1)C)=O | C28H29NO7
